US06110961
A stirred solution of 29.4 gm of 3-methoxyphenoxathiin 10,10-dioxide, 5.2 gm of tetrabutylammonium bromide (Aldrich Chemical Co.), and 500 mL of 48% aqueous HBr was refluxed in a 1 liter flask for 6 hours. It was allowed to stir overnight at room temperature and was then refluxed for one additional hour. The contents were cooled to room temperature, and a solid filtered off and washed with waster. There was obtained 26.43 gm of 3-hydroxyphenoxathiin 10,10-dioxide. This was of sufficient purity to be used for further synthetic work. Proton NMR was consistent with the structure. Recrystallization of 0.5 gm from EtOAc/Hexane yielded 0.32 gm, m.p.=213-215°.

reactant | 3-methoxyphenoxathiin 10,10-dioxide | 29.4 gm | COC=1C=CC=2S(C3=CC=CC=C3OC2C1)(=O)=O | C13H10O4S
catalyst | tetrabutylammonium bromide | 5.2 gm | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | HBr | 500 mL | Br | BrH
product | 3-hydroxyphenoxathiin 10,10-dioxide | 26.43 gm | OC=1C=CC=2S(C3=CC=CC=C3OC2C1)(=O)=O | C12H8O4S
